US07666888B2
5-(4-Fluorophenyl)-4-(pyrrolidin-1-ylcarbonyl)isoxazole
The title compound was prepared from 5-(4-fluorophenyl)isoxazole-4-carboxylic acid (10.4 mg, 0.050 mmol) and pyrrolidine (4.3 mg, 0.060 mmol) as described in synthetic method A and thereafter purified by preparative HPLC method A to give a solid (9.6 mg). MS (pos) m/z 261.1 (M+H).

reactant | 5-(4-fluorophenyl)isoxazole-4-carboxylic acid | 0.050 mmol, 10.4 mg | FC1=CC=C(C=C1)C1=C(C=NO1)C(=O)O | C10H6FNO3
reactant | pyrrolidine | 0.060 mmol, 4.3 mg | N1CCCC1 | C4H9N
product | 5-(4-Fluorophenyl)-4-(pyrrolidin-1-ylcarbonyl)isoxazole | FC1=CC=C(C=C1)C1=C(C=NO1)C(=O)N1CCCC1 | C14H13FN2O2
